US05776658
Preparation of 2-[2-(trimethoxysilyl)ethyl]benzoin isopropyl ether (3)
10.17 g (40 mmol) of benzoin isopropyl ether, 6.7 ml (44 mmol) of vinyltrimethoxysilane, 335 mg (0.4 mmol) of RuH2 (CO) (PPh3)3 and 75 ml of anhydrous toluene were mixed and stirred at reflux for 2 hours. At intervals of 2 hours, a further 3×200 mg (0.2 mmol) of RuH2 (CO) (PPh3)3 were added. The mixture was left to stand overnight, a further 200 mg (0.2 mmol) of RuH2 (CO) (PPh3)3 and 1 ml (6.6 mmol) of vinyltrimethoxysilane were added, the mixture was stirred at reflux for 8 hours, concentrated and worked up by chromatography (Florisil or silica gel, CH2Cl2 /ethyl acetate/heptane mixtures). 10.6 g of oil were obtained which after distillation in a bulb tube (220° C., 0.08 mbar) gave 9.0 g (56%) of a yellowish oil. 1H-NMR (DCDl3): 0.61-0.96 ppm (2H, mc, Et-H2); 1.21 ppm (6H, d, isopropyl-CH3, 3JH,H =6.2 Hz); 2.61 ppm (2H, mc, Et-H1); 3.53 ppm (9H, s, Si(OCH3)3); 3.71 ppm (1H, hept, sec. isopropyl-H); 5.55 ppm (1H, s, benzoin-H); 7.14-7.39 ppm (8H, m, Ph-H); 7.51 ppm (1H, dd, Ph-H6)

reactant | benzoin isopropyl ether | 40 mmol, 10.17 g | C(C)(C)OC(C(C1=CC=CC=C1)=O)C1=CC=CC=C1 | C17H18O2
reactant | vinyltrimethoxysilane | 44 mmol, 6.7 ml | C(=C)[Si](OC)(OC)OC | C5H12O3Si
reactant | vinyltrimethoxysilane | 6.6 mmol, 1 ml | C(=C)[Si](OC)(OC)OC | C5H12O3Si
solvent | toluene | 75 ml | C1(=CC=CC=C1)C | C7H8
product | 2-[2-(trimethoxysilyl)ethyl]benzoin isopropyl ether | 10.6 g | C(C)(C)OC(C(C1=C(C=CC=C1)CC[Si](OC)(OC)OC)=O)C1=CC=CC=C1 | C22H30O5Si
